US07314888B1
In 59 ml of methylene chloride are dissolved 11.8 g of 1-benzyl 2-ethyl (2S,4R)-4-hydroxy-1,2-pyrrolidinedicarboxylate, 11 ml of 3,4-dihydropyrane and 2.0 g of pyridinium p-toluenesulfonate. The solution is heated under reflux for one hour. The reaction mixture is added to 50 ml of saturated aqueous solution of sodium bicarbonate, and the organic layer is separated. The organic layer is washed with water and saturated aqueous solution of sodium chloride successively and dried over anhydrous magnesium sulfate, and then the solvent is distilled off under reduced pressure. The residue thus obtained is purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=2:1) to obtain 12.9 g of 1-benzyl 2-ethyl (2S,4R)-4-(tetrahydro-2H-pyran-2-yloxy)-1,2-pyrrolidinedicarboxylate as a colorless oily product.

reactant | 1-benzyl 2-ethyl (2S,4R)-4-hydroxy-1,2-pyrrolidinedicarboxylate | 11.8 g | O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C15H19NO5
reactant | 3,4-dihydropyrane | 11 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 2.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 59 ml | C(Cl)Cl | CH2Cl2
product | 1-benzyl 2-ethyl (2S,4R)-4-(tetrahydro-2H-pyran-2-yloxy)-1,2-pyrrolidinedicarboxylate | 12.9 g | O1C(CCCC1)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC | C20H27NO6
